US04839379
1-(4-Aminophenyl)-3-propargyl-3-azabicyclo[3.1.0]hexane-2,4dione
A mixture of 0.54 g of 1-(4-nitrophenyl)-3-propargyl-3-azabicyclo[3.1.0]hexane-2,4-dione and 1.5 g of tin powder in 4 ml of water and 4 ml of water is stirred for 1 hour at 100° C. The reaction mixture is cooled to room temperature and then diluted with 20 ml of water, filtered, and made alkaline with sodium hydroxide solution. The reaction mixture is extracted with ethyl acetate and the organic phase is washed with a dilute aqueous solution of sodium chloride until neutral, dried over magnesium sulfate and concentrated. The residue is recrystallised from ethyl acetate/petroleum ether, affording the title compound with m.p. 106°-109° C. and with Rf=0.12 on thin-layer silica gel plates in the system hexane/ethyl acetate (1:1).

reactant | 1-(4-nitrophenyl)-3-propargyl-3-azabicyclo[3.1.0]hexane-2,4-dione | 0.54 g | [N+](=O)([O-])C1=CC=C(C=C1)C12C(N(C(C2C1)=O)CC#C)=O | C14H10N2O4
reactant | tin | 1.5 g | [Sn] | Sn
solvent | water | 4 ml | O | H2O
solvent | water | 4 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 1-(4-Aminophenyl)-3-propargyl-3-azabicyclo[3.1.0]hexane-2,4dione | NC1=CC=C(C=C1)C12C(N(C(C2C1)=O)CC#C)=O | C14H12N2O2
